US04766131
3,4-Dihydro-6-methoxy-1-methylisoquinoline
To a stirred solution of N-acetyl-3-methoxyphenethylamine (96.0 g, 0.497 m) in toluene (600 ml) at 15°-20° C. phosphorus oxychloride (190.5 g, 1.24 m) was added dropwise over 2 hours. The reaction was stirred overnight at room temperature, then poured into 1 liter of ice water. The organic layer was washed with dilute HCl (2×300 ml), and the aqueous layers were combined, basified, and extracted with CHCl3 (2×500 ml). The dried chloroform layer (MgSO4) was concentrated to an oil. The oil was dissolved in ether and acidified with HCl gas to yield 55.9 g of the product, 3,4-dihydro-6-methoxy-1-methylisoquinoline, m.p. 206°-207°.

reactant | N-acetyl-3-methoxyphenethylamine | 96.0 g | C(C)(=O)NCCC1=CC(=CC=C1)OC | C11H15NO2
reactant | phosphorus oxychloride | 190.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-Dihydro-6-methoxy-1-methylisoquinoline | 55.9 g | COC=1C=C2CCN=C(C2=CC1)C | C11H13NO
